US09447078B2
CH3CN addition to methyl 6-(cyclohexyloxy)picolinate following the method described in Example 6 gave 3-(6-(cyclohexyloxy)pyridin-2-yl)-3-oxopropanenitrile as a yellow oil which was used in the next step without further purification. Yield (1.2 g, quant.).

reactant | methyl 6-(cyclohexyloxy)picolinate | C1(CCCCC1)OC1=CC=CC(=N1)C(=O)OC | C13H17NO3
reactant | CH3CN | CC#N | C2H3N
product | 3-(6-(cyclohexyloxy)pyridin-2-yl)-3-oxopropanenitrile | C1(CCCCC1)OC1=CC=CC(=N1)C(CC#N)=O | C14H16N2O2
